US05495022
Analogously to Example 2, reduction of 1-(1,2,3,4-tetrahydroquinolin-4-yl-acetyl)-4-(3,4-dimethoxyphenyl)piperidine [obtainable by reaction of 1,2,3,4-tetrahydroquinolin-4-one with diethylethoxycarbonyl methanephosphonate, subsequent hydrogenation with H2 /Pd-C, hydrolysis of the ester present and subsequent amide formation with 4-(3,4-dimethoxyphenyl)piperidine] using lithium aluminium hydride gives 1-(2-(1,2,3,4-tetrahydroquinolin-4-yl)ethyl)-4-(3,4-dimethoxyphenyl)piperidine, m.p. 235°-236° (dihydrochloride).

reactant | 1-(1,2,3,4-tetrahydroquinolin-4-yl-acetyl)-4-(3,4-dimethoxyphenyl)piperidine | N1CCC(C2=CC=CC=C12)CC(=O)N1CCC(CC1)C1=CC(=C(C=C1)OC)OC | C24H30N2O3
reactant | 1,2,3,4-tetrahydroquinolin-4-one | N1CCC(C2=CC=CC=C12)=O | C9H9NO
reactant | diethylethoxycarbonyl methanephosphonate | CP([O-])(=O)OC(=O)OC(C)(CC)CC
reactant | 4-(3,4-dimethoxyphenyl)piperidine | COC=1C=C(C=CC1OC)C1CCNCC1 | C13H19NO2
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
catalyst | H2 Pd-C | [H][H].[Pd]
product | 1-(2-(1,2,3,4-tetrahydroquinolin-4-yl)ethyl)-4-(3,4-dimethoxyphenyl)piperidine | N1CCC(C2=CC=CC=C12)CCN1CCC(CC1)C1=CC(=C(C=C1)OC)OC | C24H32N2O2
